US04306017
3,4-Dihydro-3'-methyl-4-(3-methyl-2-benzothiazolinylidenemethyl)spiro[2H-1-benzopyran-2,2'-benzothiazoline]
40.2 g of 2,3-dimethylbenzothiazolium tosylate and 7.32 g of salicylic aldehyde were mixed in 1200 ml of ethanol; to this mixture were added 12 ml of piperidine with stirring. Stirring was continued for 1 hour at room temperature. A precipitate was formed which was filtered out and washed with ethanol.

reactant | 2,3-dimethylbenzothiazolium tosylate | 40.2 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.CC=1SC2=C([N+]1C)C=CC=C2
reactant | salicylic aldehyde | 7.32 g | C1=CC=C(C(=C1)C=O)O | C7H6O2
reactant | piperidine | 12 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 1200 ml | C(C)O | C2H6O
product | 3,4-Dihydro-3'-methyl-4-(3-methyl-2-benzothiazolinylidenemethyl)spiro[2H-1-benzopyran-2,2'-benzothiazoline] | CN1C2(SC3=C1C=CC=C3)OC3=C(C(C2)C=C2SC1=C(N2C)C=CC=C1)C=CC=C3 | C25H22N2OS2
